US09303007B2
Tetrakis(triphenylphosphine)palladium(0) (17.4 mg, 0.015 mmol) was added to a solution of 2,6-dichloro-1,5-naphthyridine (30 mg, 0.151 mmol), sodium bicarbonate (38.0 mg, 0.452 mmol) and (1R,3S,5R)-tert-butyl 3-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (141 mg, 0.332 mmol) in dioxane (1.0 mL) and H2O (0.2 mL) and the mixture was heated and stirred at 110° C. for 2 h. The reaction was diluted with MeOH, filtered, concentrated and purified by prep HPLC (H2O-MeOH with 10 mM NH4OAc buffer) to yield tert-butyl (1R,3S,5R)-3-(5-(6-(2-((1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hex-3-yl)-1H-benzimidazol-6-yl)-1,5-naphthyridin-2-yl)-1H-benzimidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (22.3 mg, 0.030 mmol) as a white solid. LC-MS retention time 2.11 min; m/z 725 [M+H]+. (Column PHENOMENEX® Luna 3.0×50 mm S10. Solvent A=90% water: 10% methanol: 0.1% TFA. Solvent B=10% water: 90% methanol: 0.1% TFA. Flow Rate=4 mL/min. Start % B=0. Final % B=100. Gradient Time=3 min. Wavelength=220).

reactant | 2,6-dichloro-1,5-naphthyridine | 0.151 mmol, 30 mg | ClC1=NC2=CC=C(N=C2C=C1)Cl | C8H4Cl2N2
reactant | sodium bicarbonate | 0.452 mmol, 38.0 mg | C([O-])(O)=O.[Na+]
reactant | (1R,3S,5R)-tert-butyl 3-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 0.332 mmol, 141 mg | CC1(OB(OC1(C)C)C=1C=CC2=C(NC(=N2)[C@H]2N([C@@H]3C[C@@H]3C2)C(=O)OC(C)(C)C)C1)C | C23H32BN3O4
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.2 mL | O | H2O
solvent | MeOH | CO | CH4O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.015 mmol, 17.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl (1R,3S,5R)-3-(5-(6-(2-((1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hex-3-yl)-1H-benzimidazol-6-yl)-1,5-naphthyridin-2-yl)-1H-benzimidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 0.030 mmol, 22.3 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C1=NC2=C(N1)C=C(C=C2)C=2N=C1C=CC(=NC1=CC2)C2=CC1=C(NC(=N1)[C@H]1N([C@@H]3C[C@@H]3C1)C(=O)OC(C)(C)C)C=C2 | C42H44N8O4
